US06943159B1
5-(N-hydroxyamidino)-2-aminobenzenesulfonamide:
A mixture of hydroxylamine hydrochloride (764 mg; 11 mmol) and NaOMe (616 mg; 11.4 mmol) in MeOH (10 ml) was stirred at rt. for 1 h and then added 5-cyano-2-aminobenzenesulfonamide (1 g; 5 mmol). The reaction mixture was left with stirring for 48 h and poured into water and extracted with EtOAc (2×50 ml). The combined organic fractions were dried (Na2SO4), evaporated to dryness and purified by column chromatography to give 200 mg (17%) of product.

reactant | hydroxylamine hydrochloride | 11 mmol, 764 mg | Cl.NO
reactant | NaOMe | 11.4 mmol, 616 mg | C[O-].[Na+]
reactant | 5-cyano-2-aminobenzenesulfonamide | 5 mmol, 1 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)N)N | C7H7N3O2S
reactant | water | O | H2O
solvent | MeOH | 10 ml | CO | CH4O
product | 5-(N-hydroxyamidino)-2-aminobenzenesulfonamide | 200 mg, 17% | ONC(=N)C=1C=CC(=C(C1)S(=O)(=O)N)N | C7H10N4O3S
